US05266728
5.00 g (20.0 mmol) of the Diels-Alder adduct obtained by the step 2 of Example 1 was dissolved in 45 ml of a mixture solvent of tetrahydrofuran-water (5:4), 1.85 g (43.0 mmol) of sodium hydroxide (93%) was added on ice cooling, and the mixture was stirred at room temperature for 24 hours. After tetrahydrofuran was distilled off, the reaction mixture was neutralized with concentrated hydrochloric acid. Then, 280 mg of 5% palladium-carbon powder was added and the mixture was stirred for 30 hours under an atmosphere of hydrogen. The catalyst was filtered off, the filtrate was acidified with concentrated hydrochloric acid and extracted with a mixture solvent of hexane-methylene chloride (98:2) (50 ml×4). The extract was dried over anhydrous magnesium sulfate and filtered, the solvent was distilled off, and 2.66 g of crude 2-norbornanecarboxylic acid was obtained. Crude yield: 95%.

reactant | sodium hydroxide | 43.0 mmol, 1.85 g | [OH-].[Na+]
reactant | tetrahydrofuran water | O1CCCC1.O
product | 2-norbornanecarboxylic acid | 2.66 g | C12C(CC(CC1)C2)C(=O)O | C8H12O2
